### PR TITLE
[Merged by Bors] - feat(Algebra/MvPolynomial): add `MvPolynomial.mem_range_map_of_coeffs_subset`

### PR DESCRIPTION
**Pull request by chrisflav**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MvPolynomial/Eval.lean [hunk 1]
```diff
@@ -490,6 +490,29 @@ theorem map_mapRange_eq_iff (f : R →+* S₁) (g : S₁ → R) (hg : g 0 = 0) (
   apply eq_iff_eq_cancel_right.mpr
   rfl
 
+lemma mem_range_map_of_coeffs_subset {f : R →+* S₁} {x : MvPolynomial σ S₁}
+    (hx : (x.coeffs : Set _) ⊆ Set.range f) : x ∈ Set.range (MvPolynomial.map f) := by
```
Comment (erdOne) [inline Mathlib/Algebra/MvPolynomial/Eval.lean:494]: I think this would be useful as an iff.

Comment (erdOne) [reply Mathlib/Algebra/MvPolynomial/Eval.lean:494]: And you can probably rephrase this as something like `(MvPolynomial.map f).range.toSubmodule =  MvPolynomial.coeffsIn 1` (not tested)

File: Mathlib/Algebra/MvPolynomial/Eval.lean [hunk 2]
```diff
@@ -490,6 +490,57 @@ theorem map_mapRange_eq_iff (f : R →+* S₁) (g : S₁ → R) (hg : g 0 = 0) (
...
+    | monomial_add a s p ha hs hp ih =>
+      rw [coeffs_add (disjoint_support_monomial ha hs)] at hx
+      simp only [Finset.coe_union, Set.union_subset_iff] at hx
+      obtain ⟨q, hq⟩ := ih hx.1
+      obtain ⟨u, hu⟩ := hp hx.2
+      exact ⟨q + u, by simp [hq, hu]⟩
+
+lemma range_map_algebraMap [Algebra R S₁] :
+    .range (map <| algebraMap R S₁) =
+      (coeffsIn σ (1 : Submodule R S₁) : Set (MvPolynomial σ S₁)) := by
```
Comment (erdOne) [inline Mathlib/Algebra/MvPolynomial/Eval.lean:539]:
```suggestion
lemma range_map_algebraMap [Algebra R S₁] :
    (mapAlgHom <| Algebra.ofId R S₁).range.toSubmodule = coeffsIn σ (1 : Submodule R S₁) := by
```
My point was to get an equality of submodules which is easier to work with at times.
(you will need to move this under `mapAlgHom` and the proof will break a bit)

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Algebra/MvPolynomial/Eval.lean [hunk 3]
```diff
@@ -512,6 +556,13 @@ theorem mapAlgHom_coe_ringHom [CommSemiring S₂] [Algebra R S₁] [Algebra R S
       (map ↑f : MvPolynomial σ S₁ →+* MvPolynomial σ S₂) :=
   RingHom.mk_coe _ _ _ _ _
 
+lemma range_mapAlgHom [Algebra R S₁] :
+    (mapAlgHom <| Algebra.ofId R S₁).range.toSubmodule = coeffsIn σ (1 : Submodule R S₁) := by
```
Comment (erdOne) [inline Mathlib/Algebra/MvPolynomial/Eval.lean:560]:
```suggestion
lemma range_mapAlgHom [CommSemiring S₂] [Algebra R S₁] [Algebra R S₂] (f : S₁ →ₐ[R] S₂) :
    (mapAlgHom f).range.toSubmodule = coeffsIn σ f.range.toSubmodule := by
```
perhaps this should be even better...

**Comment by erdOne** [comment]
Thanks!
maintainer merge
